US07348359B2
A mixture of 0.450 mmol of 3-[4-(2-ethoxy-3,5-di-iso-propylphenyl)-benzo[b]thien-2-yl]-but-2-enoic acid ethyl ester, 3 mL of THF, 3 mL of methanol and 1 mL of LiOH (2N aqueous) was refluxed for 2 hours. After cooling at room temperature, the mixture was acidified to pH=2 and extracted with ethyl acetate. The organic layer was dried over MgSO4 and after evaporation of the solvents, the crude acid was recrystallized from acetonitrile. 3-[4-(2-Ethoxy-3,5-di-iso-propylphenyl)-benzo[b]thien-2-yl]-but-2-enoic acid was isolated as a white solid. 1H NMR (CDCl3), δ: 7.77 (dd, J=5.9, 3.6 Hz, 1H), 7.51 (s, 1H), 7.43 (m, 2H), 7.17 (d, J=2.2 Hz, 1H), 7.05 (d, J=2.3 Hz, 1H), 6.32 (s, 1H), 3.43 (dt, J=13.8, 6.9 Hz, 1H), 3.33 (m, 2H), 2.93 (dt, J=13.7, 6.9 Hz, 1H), 2.61 (s, 3H),1.29 (m, 12H), 0.85 (t, J=7.4 Hz, 3H).

reactant | 3-[4-(2-ethoxy-3,5-di-iso-propylphenyl)-benzo[b]thien-2-yl]-but-2-enoic acid ethyl ester | 0.450 mmol | C(C)OC(C=C(C)C1=CC2=C(S1)C=CC=C2C2=C(C(=CC(=C2)C(C)C)C(C)C)OCC)=O | C28H34O3S
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | LiOH | 2N, 1 mL | [Li+].[OH-]
solvent | methanol | 3 mL | CO | CH4O
product | 3-[4-(2-Ethoxy-3,5-di-iso-propylphenyl)-benzo[b]thien-2-yl]-but-2-enoic acid | C(C)OC1=C(C=C(C=C1C(C)C)C(C)C)C1=CC=CC=2SC(=CC21)C(=CC(=O)O)C | C26H30O3S
